US07332508B2
4-[5-(4-(Piperidin-1-ylmethyl)phenyl)[1,2,4]oxadiazol-3-ylmethyl]-1-(cyclopentyl)piperidine, Dihydrochloride
The title compound was prepared by a similar procedure to that described in Example 23, starting from 4-[5-(4-chloromethylphenyl)[1,2,4]oxadiazol-3-ylmethyl]-1-cyclopentylpiperidine and piperidine. HPLC: Rt=6.74 min.

reactant | 4-[5-(4-chloromethylphenyl)[1,2,4]oxadiazol-3-ylmethyl]-1-cyclopentylpiperidine | ClCC1=CC=C(C=C1)C1=NC(=NO1)CC1CCN(CC1)C1CCCC1 | C20H26ClN3O
reactant | piperidine | N1CCCCC1 | C5H11N
product | 4-[5-(4-(Piperidin-1-ylmethyl)phenyl)[1,2,4]oxadiazol-3-ylmethyl]-1-(cyclopentyl)piperidine, Dihydrochloride | Cl.Cl.N1(CCCCC1)CC1=CC=C(C=C1)C1=NC(=NO1)CC1CCN(CC1)C1CCCC1 | InChI=1S/C25H36N4O.2ClH/c1-4-14-28(15-5-1)19-21-8-10-22(11-9-21)25-26-24(27-30-25)18-20-12-16-29(17-13-20)23-6-2-3-7-23;;/h8-11,20,23H,1-7,12-19H2;2*1H
